### PR TITLE
[Merged by Bors] - feat: Asymptotic order of divide-and-conquer recurrences (Akra-Bazzi theorem)

### PR DESCRIPTION
**Pull request by dupuisf**
This PR proves the [Akra-Bazzi theorem](https://en.wikipedia.org/wiki/Akra%E2%80%93Bazzi_method), which gives the asymptotic order of divide-and-conquer recurrences of the form
```
T n = (∑ i in Fin k, a i * T (r i n)) + g n
```
where `T : ℕ → ℝ`, and where `r i n` is close to `b i * n` for a set of coefficients `b : Fin k → ℝ`. These recurrences arise mainly in the analysis of divide-and-conquer algorithms such as mergesort or Strassen's algorithm for matrix multiplication.

Note that the traditional proof first proves a continuous version (i.e. for `T : ℝ → ℝ`) and then discretizes it to get a version that is relevant for algorithms. Here we prove the discrete version directly, which shortens the proof considerably.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/AkraBazzi.lean [hunk 1]
```diff
@@ -0,0 +1,1836 @@
...
+    with x hx₁ hx₂ hx₃
+  intro u hu
+  rw [hx₂ u hu.1, hx₃]
+  exact hx₁ u hu
+
+protected lemma rpow (p : ℝ) : GrowsPolynomially fun x => x ^ p := by
+  intro b hb
+  have hb₀ : 0 < b := hb.1
+  have hbp₀ : 0 < b ^ p := Real.rpow_pos_of_pos hb₀ _
+  by_cases hp : 0 ≤ p
```
Comment (eric-wieser) [inline Mathlib/Computability/AkraBazzi.lean:257]:
```suggestion
  obtain hle | hlt := le_or_lt 0 p
```
saves you having to `push_neg` later

File: Mathlib/Computability/AkraBazzi.lean [hunk 2]
```diff
@@ -0,0 +1,1836 @@
...
+  case pos =>
+    refine ⟨b^p, ⟨hbp₀, ?_⟩⟩
+    refine ⟨1, ⟨by norm_num, ?_⟩⟩
```
Comment (eric-wieser) [inline Mathlib/Computability/AkraBazzi.lean:260]: normally we omit the nesting unless it really helps with symmetry:
```suggestion
    refine ⟨b^p, hbp₀, ?_⟩
    refine ⟨1, by norm_num, ?_⟩
```

File: Mathlib/Computability/AkraBazzi.lean [hunk 3]
```diff
@@ -0,0 +1,1836 @@
...
+
+namespace AkraBazziRecurrence
+
+variable {k : ℕ} {T : ℕ → ℝ} {g : ℝ → ℝ} {a b : Fin k → ℝ} {r : Fin k → ℕ → ℕ}
+  (R : AkraBazziRecurrence T g a b r)
+
+/-- Smallest `b i` -/
+noncomputable def min_bi : Fin k :=
+  haveI : NeZero k := ⟨ne_of_gt R.k_gt_zero⟩
+  Classical.choose <| Finite.exists_min b
```
Comment (eric-wieser) [inline Mathlib/Computability/AkraBazzi.lean:445]: This ought to be straightforward to obtain computably by using `Finset.univ.min` or `Nat.find`. I'm surprised we don't have `Fin.find` or similar.

Comment (eric-wieser) [reply Mathlib/Computability/AkraBazzi.lean:445]: Ah, nevermind, this is a sequence of reals.

File: Mathlib/Computability/AkraBazzi.lean [hunk 4]
```diff
@@ -0,0 +1,1836 @@
...
+    (hg' : ∀ᶠ x in atTop, 0 ≤ g x) : GrowsPolynomially f :=
+  of_isTheta hg hf.isTheta hf' hg'
+
+lemma of_isEquivalent_const {f : ℝ → ℝ} {c : ℝ} (hc : 0 < c) (hf : f ~[atTop] fun _ => c) :
+    GrowsPolynomially f := by
+  refine of_isEquivalent GrowsPolynomially.const hf (hf.tendsto_const.eventually
+    (eventually_ge_nhds hc)) (eventually_of_forall (fun _ => ?_))
+  simp [le_of_lt hc]
+
+end GrowsPolynomially
```
Comment (eric-wieser) [inline Mathlib/Computability/AkraBazzi.lean:396]: I think this would be a good place to split the file in two, perhaps with the new file at `Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean` or similar

File: Mathlib/Computability/AkraBazzi.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi.lean:260]: Strange -- I specifically remember this not working somehow!

File: Mathlib/Computability/AkraBazzi.lean (hunk 4 above)
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi.lean]: Yes, that makes sense.

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 5]
```diff
@@ -0,0 +1,1505 @@
...
+import Mathlib.Computability.AkraBazzi.GrowsPolynomially
+import Mathlib.Analysis.Calculus.MeanValue
+import Mathlib.Analysis.SpecialFunctions.Pow.Deriv
+
+/-!
+# Divide-and-conquer recurrences and the Akra-Bazzi theorem
+
+A divide-and-conquer recurrence is a function `T : ℕ → ℝ` that satisfies a recurrence relation of
+the form T(n) = ∑_{i=0}^{k-1} a_i T(r_i(n)) + g(n) for large enough n, where r_i(n) is some
+function where ‖r_i(n) - b_i n‖ ∈ o(n / (log n)^2) for all, the a_i's are some positive
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/AkraBazzi.lean:16]: you have a small o here, but Wikipedia gives the claim with a big O. Which is correct?

Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/AkraBazzi.lean:16]: It can be tightened to big-O, by choosing the "smoothing function" differently and making the proof more complicated. This would have a very low payoff though, I'm not sure there is even a single application where this makes a difference, n / (log n)^2 is already overkill most of the time.

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean [hunk 6]
```diff
@@ -0,0 +1,340 @@
...
+protected lemma const {c : ℝ} : GrowsPolynomially (fun _ => c) := by
+  intro b _
+  refine ⟨1, by norm_num, ?_⟩
+  refine ⟨1, by norm_num, ?_⟩
+  filter_upwards [] with x
+  intro u _
+  simp
+
+protected lemma mul {f g : ℝ → ℝ} (hf : GrowsPolynomially f) (hg : GrowsPolynomially g)
+    (hf' : 0 ≤ᶠ[atTop] f) (hg' : 0 ≤ᶠ[atTop] g) : GrowsPolynomially fun x => f x * g x := by
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean:69]: Are the assumptions `hf'` and `hg'` really needed here? If a function grows polynomially, either it is eventually zero, or eventually positive, or eventually negative, and then everything goes through. Same thing in several lemmas below, all the eventual positivity assumptions can be dispensed with.

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks! Sorry for the delay with the review.

**Comment by sgouezel** [comment]
Another question I forgot to mention is if it should be in the `Computability` folder, or if there should be a `Complexity` folder. For now, I'd keep it in `Computability` until there is enough material to warrant a split. Maybe in  `Computability.Complexity`?

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean [hunk 7]
```diff
@@ -0,0 +1,340 @@
...
+b ∈ (0,1).
+-/
+
+set_option autoImplicit false
+
+open Finset Real Filter Asymptotics BigOperators
+
+namespace AkraBazziRecurrence
+
+/-- The growth condition that the function `g` must satisfy for the Akra-Bazzi theorem to apply.
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean:25]: Yes, you're correct, and I actually considered defining it for `b = 1/2`. I went with this version because the `b = 1/2` version doesn't make any of the proofs easier, and it's the version we actually want to use anyway. I could switch to that definition and prove the equivalence if you think it's worth it.

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 8]
```diff
@@ -0,0 +1,1505 @@
...
+  filter_upwards [hlo', R.eventually_b_le_r] with n hn hn'
+  intro i
+  simp only [Real.norm_of_nonneg (by positivity : 0 ≤ (n : ℝ))] at hn
+  calc b R.min_bi / 2 * n = b R.min_bi * n - b R.min_bi / 2 * n := by ring
+                          _ ≤ b R.min_bi * n - ‖n / log n ^ 2‖  := by gcongr
+                          _ ≤ b i * n - ‖n / log n ^ 2‖         := by gcongr; aesop
+                          _ = b i * n - n / log n ^ 2 := by
+                                congr
+                                exact Real.norm_of_nonneg <| by positivity
+                          _ ≤ r i n := by exact hn' i
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/AkraBazzi.lean:196]: Unfortunately this is not true; it works in this particular example, but removing it in calc blocks often doesn't work (for example around line 253). In fact I started using `by exact` more or less systematically in calc blocks to avoid this bug. Maybe I should bring it up on Zulip...

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 9]
```diff
@@ -0,0 +1,1505 @@
...
+/-!
+#### Akra-Bazzi exponent `p`
+
+Every Akra-Bazzi recurrence has an associated exponent, denoted by `p : ℝ`, such that
+∑ a_i b_i^p = 1.  This section shows the existence and uniqueness of this exponent `p` for any
+`R : AkraBazziRecurrence`, and defines `R.asymBound` to be the asymptotic bound satisfied by `R`,
+namely n^p (1 + ∑ g(u) / u^(p+1)).  -/
+
+@[continuity]
+lemma continuous_sumCoeffsExp : Continuous (fun p => ∑ i, a i * (b i)^p) := by
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/AkraBazzi.lean:519]: Yes, good point!

**Comment by dupuisf** [comment]
> Another question I forgot to mention is if it should be in the `Computability` folder, or if there should be a `Complexity` folder. For now, I'd keep it in `Computability` until there is enough material to warrant a split. Maybe in `Computability.Complexity`?

I agree that filing this under "computability" is a bit of a stretch but yes, let's wait until there is a bit more material about complexity and algorithms!

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean (hunk 6 above)
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean:77]: Yes, that's probably right; I don't have time to fix this right now but I'll get back to it in the next few days hopefully.

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean [hunk 10]
```diff
@@ -334,19 +404,34 @@ protected lemma add {f g : ℝ → ℝ} (hf : GrowsPolynomially f) (hg : GrowsPo
                           · exact (hf u hu).2
                           · exact (hg u hu).2
 
-protected lemma inv {f : ℝ → ℝ} (hf : GrowsPolynomially f) (hf' : ∀ᶠ x in atTop, 0 < f x) :
+protected lemma inv {f : ℝ → ℝ} (hf : GrowsPolynomially f) (hf' : ∀ᶠ x in atTop, f x ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean:407]: You shouldn't need `hf'` here: either `f` is eventually positive, or it is eventually negative, or it is eventually zero. In the last case, `1/f` is also eventually zero, so the conclusion still holds.

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean (hunk 6 above)
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean]: This is now fixed.

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean (hunk 10 above)
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean]: Also fixed.

**Comment by dupuisf** [comment]
Thanks again for the review -- it took me more time than I thought to get around to implementing the changes, but this is now ready for another round of reviews!

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 11]
```diff
@@ -0,0 +1,1485 @@
...
+
+/-- The "smoothing function" is defined as `1 / log n`. This is defined as an `ℝ → ℝ` function
+as opposed to `ℕ → ℝ` since this is more convenient for the proof, where we need to e.g. take
+derivatives. -/
+noncomputable def smoothingFn (n : ℝ) : ℝ := 1 / log n
+
+local notation "ε" => smoothingFn
+
+lemma one_add_smoothingFn_le_two {x : ℝ} (hx : exp 1 ≤ x) : 1 + ε x ≤ 2 := by
+  simp only [smoothingFn, ←one_add_one_eq_two]
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/AkraBazzi.lean:316]:
```suggestion
  simp only [smoothingFn, ← one_add_one_eq_two]
```
There is a consensus that this is the preferred style. Could you adapt the PR here and elsewhere?

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 12]
```diff
@@ -0,0 +1,1485 @@
...
+  show StrictAntiOn (fun x => 1 / log x) (Set.Ioi 1)
+  simp_rw [one_div]
+  refine StrictAntiOn.comp_strictMonoOn inv_strictAntiOn ?log fun _ hx => log_pos hx
+  refine StrictMonoOn.mono strictMonoOn_log (fun x (hx : 1 < x) => ?_)
+  show 0 < x
+  linarith
+
+lemma strictMonoOn_one_sub_smoothingFn : StrictMonoOn (fun (x:ℝ) => (1:ℝ) - ε x) (Set.Ioi 1) := by
+  have : (fun x => 1 - ε x) = fun x => 1 + -ε x := by ext x; rw [sub_eq_add_neg]
+  simp_rw [this]
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/AkraBazzi.lean:468]:
```suggestion
  simp_rw [sub_eq_add_neg]
```
should be enough

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 13]
```diff
@@ -0,0 +1,1485 @@
...
+    exact log_nonneg hx
+  case inr =>    -- p ≠ 0
+    refine GrowsPolynomially.of_isTheta ((growsPolynomially_rpow (p-1)))
+      (isTheta_deriv_rpow_p_mul_one_add_smoothingFn hp) ?_
+    filter_upwards [eventually_gt_atTop 0] with _ _
+    positivity
+
+lemma rpow_p_mul_one_sub_smoothingFn_le :
+    ∀ᶠ (n : ℕ) in atTop, ∀ i, (r i n)^(p a b) * (1 - ε (r i n))
+      ≤ (b i)^(p a b) * n^(p a b) * (1 - ε n) := by
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/AkraBazzi.lean:981]:
```suggestion
    ∀ᶠ (n : ℕ) in atTop, ∀ i, (r i n) ^ (p a b) * (1 - ε (r i n))
      ≤ (b i) ^ (p a b) * n ^ (p a b) * (1 - ε n) := by
```
Same thing below.

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 14]
```diff
@@ -0,0 +1,1485 @@
...
+    have htmp1 : 0 < 1 - ε n := h_smoothingFn_floor n hn.1
+    have htmp2 : 0 < asympBound g a b n := h_asympBound_floor n hn.1
+    rw [←_root_.div_le_iff (by positivity)]
+    rw [←Finset.mem_Ico] at hn
+    calc T n / ((1 - ε ↑n) * asympBound g a b n)
+           ≤ (Finset.Ico (⌊b' * n₀⌋₊) n₀).sup' h_base_nonempty
+                (fun z => T z / ((1 - ε z) * asympBound g a b z)) :=
+                  Finset.le_sup'_of_le _ (b := n) hn <| le_refl _
+         _ ≤ C := le_max_right _ _
+  have h_asympBound_pos' : 0 < asympBound g a b n := h_asympBound_pos n hn
```
Comment (sgouezel) [inline Mathlib/Computability/AkraBazzi/AkraBazzi.lean:1233]: You have a comment about the base case above. Could you put another comment around here saying that you will now conclude all cases by induction?
Same thing in next proof.

**Review by sgouezel — COMMENTED** [review]
This looks great!
bors d+

File: Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean [hunk 15]
```diff
@@ -0,0 +1,718 @@
...
+      _ ≤ Real.log u := by gcongr; exact hu.1
+  case ub =>
+    rw [one_mul]
+    gcongr
+    · calc 0 < b * x := by positivity
+         _ ≤ u := by exact hu.1
+    · exact hu.2
+
+lemma GrowsPolynomially.of_isTheta {f g : ℝ → ℝ} (hg : GrowsPolynomially g) (hf : f =Θ[atTop] g)
+    (hf' : ∀ᶠ x in atTop, 0 ≤ f x) : GrowsPolynomially f := by
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/GrowsPolynomially.lean:661]: Yes, we actually do, since `IsTheta` only talks about the norm of `f`, so its sign could change arbitrarily.

File: Mathlib/Computability/AkraBazzi/AkraBazzi.lean [hunk 16]
```diff
@@ -0,0 +1,1485 @@
...
+
+This section defines the predicate `AkraBazziRecurrence T g a b r` which states that `T`
+satisfies the recurrence
+`T(n) = ∑_{i=0}^{k-1} a_i T(r_i(n)) + g(n)`
+with appropriate conditions on the various parameters.
+-/
+
+/-- An Akra-Bazzi recurrence is a function that satisfies the recurrence
+`T n = (∑ i, a i * T (r i n)) + g n`. -/
+structure AkraBazziRecurrence {k : ℕ} (T : ℕ → ℝ) (g : ℝ → ℝ) (a : Fin k → ℝ)
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Computability/AkraBazzi/AkraBazzi.lean]: It turns out that converting it to an arbitrary fintype was surprinsingly painless.
